datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])([H:9])[H:14],74.8936
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:26][O:27][H:28]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][O:26][O:27][H:28],58.19944
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([O:4])([H:10])[H:11])([H:5])[H:6].[H:12][H:13]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([O:4][H:13])([H:10])[H:11])([H:5])[H:6].[H:12],74.60072
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7]([S:8][H:12])([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:9])[H:4].[C:7]([S:8][H:12])([H:10])[H:11],63.5968
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[O:5][H:13])[H:6].[C:14]([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:6].[O:5]([H:13])[C:14]([H:15])([H:16])[H:17],139.096
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14]([C:15]([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:15]([C:14]([H:22])([H:23])[H:24])([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])[H:8])([H:6])[H:7],47.9068
[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:6])[H:7].[H:5][C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14],43.5136
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38][O:39]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:21][O:38][O:39],199.11656
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](#[C:8][C:9]([C:10]([H:13])([H:14])[H:15])[C:11]([H:16])([H:17])[H:18])[H:12]>>[C:0](=[C:1][C:2]([H:4])([H:5])[H:6])([H:3])[C:9]([C:8]#[C:7][H:12])([C:10]([H:13])([H:14])[H:15])[C:11]([H:16])([H:17])[H:18],40.9195
[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([C:7]([H:20])([H:21])[H:22])[H:19],37.8652
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[S:10]([C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])[H:19])[H:18]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:11]([S:10][H:18])([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])[H:19],93.7216
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[S:6]([S:7][H:9])[H:8]>>[C:0](=[C:1]([S:2][H:5])[H:8])([H:3])[H:4].[S:6][S:7][H:9],-25.5224
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:38]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])([H:12])([H:13])[H:14].[H:15][H:38],18.706664
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8](=[O:9])[H:10]>>[C-:8]#[O+:9].[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:10])([H:3])[H:4],0.0
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([O:3][O:4][H:14])[C:5]([O:6][H:16])([O:7][O:8][H:17])[H:15])([H:9])[H:10]>>[C:0](=[C:1]([O:3][O:4][H:14])[C:5]([O:6][H:16])([O:7][O:8][H:17])[H:15])([H:9])[H:10].[C:2]([H:11])([H:12])[H:13],103.7632
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](=[C:7][C:8]([H:11])([H:12])[H:13])([H:9])[H:10]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:7](=[C:6]([H:9])[H:10])[C:8]([H:11])([H:12])[H:13],-5.0208
